US05256784
5-[4'-(2"-hydroxyethyl)piperazino]benzylidene-3-aminorhodanine
An admixture of 4.7 grams of 4-[4'-(2"-hydroxyethyl)piperazino]benzaldehyde (0.02 mol), 3.0 grams of 3-aminorhodanine (0.02 mol), toluene (30 mL), and glacial acetic acid (5 mL) was refluxed for 4 hours. The admixture was then cooled to room temperature and the solvent was decanted. The remaining paste was triturated with ethanol and then filtered off and dried.

reactant | 4-[4'-(2"-hydroxyethyl)piperazino]benzaldehyde | 0.02 mol, 4.7 grams | OCCN1CCN(CC1)C1=CC=C(C=O)C=C1 | C13H18N2O2
reactant | 3-aminorhodanine | 0.02 mol, 3.0 grams | NN1C(SCC1=O)=S | C3H4N2OS2
reactant | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 5-[4'-(2"-hydroxyethyl)piperazino]benzylidene-3-aminorhodanine | OCCN1CCN(CC1)C=1C=CC=C(C=C2C(N(C(S2)=S)N)=O)C1 | C16H20N4O2S2
